US04161603
1,3-Di-(3'-methoxycarbonyl-n-propyl)-4,5,6,7-tetrabromobenzimidazolone
45.48 g (0.1 mol) of 4,5,6,7-tetrabromobenzimidazolone are suspended in 250 ml of dimethylformamide and 75 ml of toluene and 27.4 g (0.2 mol) of finely powdered, dry potassium carbonate are added. 30.07 g (0.22 mol) of methyl γ-chlorobutyrate are added to this suspension and the mixture is heated up to the reflux temperature (internal temperature 108°-120° C.), whilst stirring. The toluene serves to remove water azeotropically. After 25 hours, the mixture is cooled to 80°-85° C. and filtered whilst still hot. The solution is concentrated to dryness and the desired product is isolated in the form of colourless crystals. Yield: 58.35 g (89.1% of theory).

reactant | 4,5,6,7-tetrabromobenzimidazolone | 0.1 mol, 45.48 g | BrC1=C(C(=C(C2=NC(N=C21)=O)Br)Br)Br | C7Br4N2O
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl γ-chlorobutyrate | 0.22 mol, 30.07 g | ClCCCC(=O)OC | C5H9ClO2
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 1,3-Di-(3'-methoxycarbonyl-n-propyl)-4,5,6,7-tetrabromobenzimidazolone | COC(=O)CCCN1C(N(C2=C1C(=C(C(=C2Br)Br)Br)Br)CCCC(=O)OC)=O | C17H18Br4N2O5
